US06403586B1
Preparation of 2-(4-Chlorocinnamyl)-4-methoxycarbonyl-6-[4-(methylthio)phenyl]-2H-pyridazin-3-one
Using 4-methoxycarbonyl-6-[4-(methylthio)phenyl]-2H-pyridazin-3-one and 4-chlorocinnamyl chloride as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 82.3%.

reactant | 4-methoxycarbonyl-6-[4-(methylthio)phenyl]-2H-pyridazin-3-one | COC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)SC)=O | C13H12N2O3S
reactant | 4-chlorocinnamyl chloride | ClC1=CC=C(C=CCCl)C=C1 | C9H8Cl2
product | 2-(4-Chlorocinnamyl)-4-methoxycarbonyl-6-[4-(methylthio)phenyl]-2H-pyridazin-3-one | yield of 82.3% | ClC1=CC=C(C=CCN2N=C(C=C(C2=O)C(=O)OC)C2=CC=C(C=C2)SC)C=C1 | C22H19ClN2O3S
